US04032647
A mixture of 10.4 g (0.027 mole) of 2-(5-tetradecyloxy)thenoylacetic acid, 4.4 g (0.027 mole) of N,N'-carbonyldiimidazole, and anhydrous tetrahydrofuran is stirred until the evolution of carbon dioxide gas stops. The mixture is cooled on an ice bath, in 3.0 g (0.027 mole) of benzyl alcohol is added. The reaction is allowed to warm to room temperature and evaporated to dryness. The residue is extracted with ether-H2O. The ether layer is washed with 10% aqueous HCl, then water, then saturated sodium chloride, dried with sodium sulfate and evaporated to dryness to give 5-tetradecyloxythen-2-oylacetic acid benzyl ester.

reactant | 2-(5-tetradecyloxy)thenoylacetic acid | 0.027 mole, 10.4 g | CCCCC(CCCCCCCCC)OC1(CC=CS1)C(=O)CC(=O)O | C21H36O4S
reactant | carbon dioxide | C(=O)=O | CO2
reactant | benzyl alcohol | 0.027 mole, 3.0 g | C(C1=CC=CC=C1)O | C7H8O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5-tetradecyloxythen-2-oylacetic acid benzyl ester | C(C1=CC=CC=C1)OC(CC(=O)C1=CC=C(S1)OCCCCCCCCCCCCCC)=O | C28H40O4S
